US05869519
N-[(3-Chloro-5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid, t-Butyl Ester
DMSO (0.60 mL, 8.5 mmol) was added to a methylene chloride solution of oxalyl chloride (2.1 mL, 2.0M, 4.2 mmol, in 15 mL of methylene chloride), and the resultant reaction mixture was stirred for 10 minutes under a nitrogen atmosphere at -78° C. A methylene chloride solution of N-[(5-fluoro-1-methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (820 mg, 1.7 mmol, in 8 mL of dry methylene chloride), and DMSO (0.4 mL) were added dropwise to the reaction mixture and stirred for 15 minutes at -78° C. TEA (1.4 mL, 10.2 mmol) was added to the mixture dropwise and the mixture was stirred for 10 minutes at -78° C., then was allowed to warm to room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous layer was back-extracted with ethyl acetate. The combined ethyl acetate solutions were washed with 5% KHSO4 solution and brine, dried over sodium sulfate, and concentrated to give the title product as a slightly yellow solid. Trituration with ether afforded the title product as a white powder (705 mg, 85%). TLC: (methanol/methylene chloride, 1:9): Rf =0.63. MS for C24H30ClF2N3O5 : MH+ =514/516; (M-H)- =512/514.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 4.2 mmol, 2.0M, 2.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[(5-fluoro-1-methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 1.7 mmol, 8 mL, 820 mg | FC=1C=C2C=C(N(C2=CC1)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C24H33F2N3O5
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
solvent | DMSO | 8.5 mmol, 0.60 mL | CS(=O)C | C2H6OS
product | N-[(3-Chloro-5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid, t-Butyl Ester | ClC1=C(N(C2=CC=C(C=C12)F)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C24H30ClF2N3O5
